US07378447B2
Biphenyl-4-carboxylic acid (R)-(6-(1-((2-methoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide
Dissolve carbamic acid tert-butyl ester (R)-(6-(1-((2-methoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide (153.6 mg, 0.407 mmol) in excess TFA at 0° C. and allow to stir for 1 hour. Remove the solvent in vacuo. Dissolve the residue in 10 mL methylene chloride and add triethylamine (411.8 mg, 4.07 mmol) and biphenyl-4-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester (118.3 mg, 0.400 mmol). Allow the reaction mixture to stir for 21 hours. Dilute the reaction mixture with methylene chloride and wash it with saturated aqueous sodium hydrogen carbonate (1×) and brine (1×). Dry the organic layer with magnesium sulfate. Filter and remove the solvent in vacuo to give 162.1 mg of crude product. Purify via Biotage chromatography (30% MeOH/EtOAc) to afford 93.1 mg of the titled product as an oil (50% yield). MS (ES): m/z 458.3(M+H).

reactant | carbamic acid tert-butyl ester (R)-(6-(1-((2-methoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide | 0.407 mmol, 153.6 mg | COCCN(C(C)=NC1=CC=C2C[C@H]([C@@H](C2=C1)[NH-])O)C.C(C)(C)(C)OC(N)=O
reactant | triethylamine | 4.07 mmol, 411.8 mg | C(C)N(CC)CC | C6H15N
reactant | biphenyl-4-carboxylic acid 2,5-dioxopyrrolidin-1-yl ester | 0.400 mmol, 118.3 mg | O=C1N(C(CC1)=O)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H13NO4
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Biphenyl-4-carboxylic acid (R)-(6-(1-((2-methoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide | 93.1 mg, 50% yield | COCCN(C(C)=NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O)C | C28H31N3O3
